US05079245
458.5 g (2 mols) of 2-trifluoromethyl-7-amino-6,7,8,9-tetrahydro-[5H]-benzocycloheptene are dissolved in 2000 ml of anhydrous benzene. One mol of ethyl bromoacetate is added thereto and the whole is heated under reflux. A precipitate forms. The refluxing is maintained for 4 hours, then the mixture is allowed to return to room temperature. The hydrobromide precipitate of the starting amine is filtered off and washed in benzene then ether. The solvent is distilled off from the filtrate. The oil obtained is used as such for the subsequent hydrolysis. Ultimately 271 g of 2-trifluoromethyl-7-(N-ethoxycarbonylmethylamino)-6,7,8,9-tetrahydro-[5H]-benzocycloheptene are obtained. (Yield 86%), a sample of which is purified in the form of the hydrochloride, which sublimes towards 270°-280° C.

reactant | 2-trifluoromethyl-7-amino-6,7,8,9-tetrahydro-[5H]-benzocycloheptene | 2 mols, 458.5 g | FC(C=1C=CC2=C(CCC(CC2)N)C1)(F)F | C12H14F3N
reactant | ethyl bromoacetate | One mol | BrCC(=O)OCC | C4H7BrO2
solvent | benzene | 2000 ml | C1=CC=CC=C1 | C6H6
product | 2-trifluoromethyl-7-(N-ethoxycarbonylmethylamino)-6,7,8,9-tetrahydro-[5H]-benzocycloheptene | 271 g, Yield 86% | FC(C=1C=CC2=C(CCC(CC2)NCC(=O)OCC)C1)(F)F | C16H20F3NO2
